US07452911B2
3.40b 2-chloromethyl-5-nitro-1H-benzimidazole
20 mL (275 mmol) thionyl chloride are added slowly to a solution of 6.4 g (33.1 mmol) (5-nitro-1H-benzimidazol-2-yl)-methanol in 100 mL DCM at 10° C. The reaction is stirred for 1 h at RT and the solvent is eliminated i.vac. The residue is triturated with DCM, suction filtered, washed with DCM and ether and dried in the circulating air dryer at 35° C.

reactant | thionyl chloride | 275 mmol, 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (5-nitro-1H-benzimidazol-2-yl)-methanol | 33.1 mmol, 6.4 g | [N+](=O)([O-])C1=CC2=C(NC(=N2)CO)C=C1 | C8H7N3O3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-5-nitro-1H-benzimidazole | ClCC1=NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C8H6ClN3O2
